US03965074
A 244 g sample (1.0 mole) of 1,2-dichloro-2,2-difluoro-1-(trifluoromethyl)ethyl isocyanate was added dropwise to a stirred suspension of 98 g (1.5 gram atom) of powdered zinc in 1000 ml of glycol dimethyl ether at such a rate that the temperature warmed to 45° and remained between 45°-50°. The reaction mixture was stirred for 1 hr after the addition, and then the most volatile portion was distilled under reduced pressure (5 mm) into a trap cooled oled to -78 °. The condensate in the trap was redistilled to give 158 g (91%) of 2,2-difluoro-1-(trifluoromethyl)vinyl isocyanate as a colorless liquid: bp 42.3-42.5°, ir (liquid), 4.38 μ (NCO) and 5.67 μ (=CF2); 19F nmr (CCl3F) δ 66.6 ppm (d, J = 9 Hz to d, J = 23 Hz, 3F) δ 82.9 ppm (d, J = 21 Hz to q, J = 9 Hz, IF) and δ 89.7 ppm (d, J = 21 Hz to d, J = 23 Hz, IF).

reactant | 1,2-dichloro-2,2-difluoro-1-(trifluoromethyl)ethyl isocyanate | 1.0 mole | ClC(C(F)(F)Cl)(C(F)(F)F)N=C=O | C4Cl2F5NO
solvent | glycol dimethyl ether | 1000 ml | COCCOC | C4H10O2
catalyst | zinc | 98 g | [Zn] | Zn
product | 2,2-difluoro-1-(trifluoromethyl)vinyl isocyanate | 158 g, 91% | FC(=C(C(F)(F)F)N=C=O)F | C4F5NO
